US07323475B2
a. 7-(4-Fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
A mixture of 1-Bromo-7-(4-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (4.34 g, 10 mmol, see example A-75d), sodium acetate (984 mg, 12 mmol), Pd/C (2.0 g, 10 wt % Pd, 50 wt % water), EtOAc (400 ml) and MeOH (200 ml) was stirred under an H2-atmosphere at ambient pressure and temperature for 2.5 h before the mixture was filtered through a plug of celite. The celite was washed with EtOAc (500 ml). The combined organic phases were concentrated in vacuo. To the residue was added a half concentrated NaHCO3 solution (50 ml) and the mixture was extracted with CH2Cl2 (1×200 ml). The organic phase was dried over MgSO4 and concentrated in vacuo to yield the title compound as a tan oil (3.45 g); MS-(+)-ion M+1=356.1.

reactant | 1-Bromo-7-(4-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 10 mmol, 4.34 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F)Br | C20H17BrFNO4
reactant | sodium acetate | 12 mmol, 984 mg | C(C)(=O)[O-].[Na+]
reactant | EtOAc | 400 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 2.0 g | [Pd] | Pd
solvent | MeOH | 200 ml | CO | CH4O
product | 7-(4-Fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 3.45 g | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F | C20H18FNO4
